US06239131B1
Preparation of 1-tert-butylcarbonylmethyl-2-oxo-3-[(2S)-(2-tert-butoxycarbonylamino-3-phenylpropionyl)amino]-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-tert-Butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (3.62 g) was dissolved in anhydrous N,N-dimethyl formamide (30 ml) under argon atmosphere, N-tert-butoxycarbonyl-L-phenylalanine (3.00 g), 1-hydroxybenzotriazole (1.73 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.17 g) and triethylamine (2.08 g) were added at ice-cooling, thereto the mixture was stirred for 5 minutes under ice-cooling, and stirred at room temperature for one hour. Water and ethyl acetate were added to the reaction mixture, separated, the organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 6.17 g of the title compound.

reactant | 1-tert-Butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.62 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | C21H25N3O2
reactant | N-tert-butoxycarbonyl-L-phenylalanine | 3.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole | 1.73 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.17 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 2.08 g | C(C)N(CC)CC | C6H15N
product | 1-tert-butylcarbonylmethyl-2-oxo-3-[(2S)-(2-tert-butoxycarbonylamino-3-phenylpropionyl)amino]-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 6.17 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)=O | C35H42N4O5
